US06831079B1
[4-(1-Butyl-1H-pyrazol-3-yl)-phenyl]-(5H,11H-pyrrolo[2,1-c][1,4]-benzodiazepin-10-yl)-methanone
In the manner of Example 25, employing [4-(1H-pyrazol-3-yl)-phenyl]-(5H,11H-pyrrolo[2,1-c][1,4]benzodiazepin-10-yl)-methanone (0.98 g), 60% sodium hydride in oil (0.30 g), dimethylformamide (25 ml), and 1-iodobutane (0.60 g), the title compound (0.32 g) was obtained as a crystalline solid, m.p. 122-123° C.

reactant | [4-(1H-pyrazol-3-yl)-phenyl]-(5H,11H-pyrrolo[2,1-c][1,4]benzodiazepin-10-yl)-methanone | 0.98 g | N1N=C(C=C1)C1=CC=C(C=C1)C(=O)N1CC=2N(CC3=C1C=CC=C3)C=CC2 | C22H18N4O
reactant | sodium hydride | [H-].[Na+]
reactant | 1-iodobutane | 0.60 g | ICCCC | C4H9I
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | [4-(1-Butyl-1H-pyrazol-3-yl)-phenyl]-(5H,11H-pyrrolo[2,1-c][1,4]-benzodiazepin-10-yl)-methanone | 0.32 g | C(CCC)N1N=C(C=C1)C1=CC=C(C=C1)C(=O)N1CC=2N(CC3=C1C=CC=C3)C=CC2 | C26H26N4O
